US06939566B2
Preparation of Silver-Leucine Complex
The same procedure in Example 1 above was duplicated, but the amino acid used was leucine instead of glutamic acid. The amount of leucine used in this case was 30.84 mg which again represents an equimolar amount of the amino acid with respect to the silver ions.

reactant | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | silver | [Ag] | Ag
product | Silver Leucine | [Ag].N[C@@H](CC(C)C)C(=O)O | InChI=1S/C6H13NO2.Ag/c1-4(2)3-5(7)6(8)9;/h4-5H,3,7H2,1-2H3,(H,8,9);/t5-;/m0./s1
